US04427783
Preparation of tetrazotized o-dianisidine (TAD)
A solution of 0.36 g of o-dianisidine dihydrochloride (1 mmole) in 45 ml (0.2 M HCl was cooled in an ice bath. To this was added dropwise (to keep the temperature below 5° C.) a solution of 0.17 g of sodium nitrite (2.46 mmole) in 5 ml distilled water. An orange color formed immediately. The mixture was stirred for another 30 minutes at 4° C. before using.

reactant | o-dianisidine dihydrochloride | 1 mmole, 0.36 g | COC1=C(C=CC(=C1)C2=CC(=C(C=C2)N)OC)N.Cl.Cl
reactant | HCl | 0.2 M | Cl | ClH
reactant | sodium nitrite | 2.46 mmole, 0.17 g | N(=O)[O-].[Na+]
product | o-dianisidine | COC1=C(C=CC(=C1)C2=CC(=C(C=C2)N)OC)N | C14H16N2O2
